US05324842
Preparation of 4-acetylamino-6-methyl-3-oxo-2,3,4,5-tetrahydro-1,2,4-triazine
To a solution of 156 g of 2,3-dihydro-5-methyl-2-oxo-1,3,4-oxadiazol-3-ylacetone in 600 ml of isopropanol and 15 ml of water, 75 g of hydrazine hydrate are added at 70° C. over a period of 30 minutes. The mixture is subsequently stirred at reflux temperature for a further 6 hours. 40 g of oxalic acid dihydrate in 160 ml of isopropanol are added, and the precipitate is filtered off, while the mixture is hot, and washed with 150 ml of isopropanol. The filtrate is evaporated in vacuo until the total volume is about 600 ml, then cooled to 0° C. to +5° C., and the precipitated product is filtered off and dried yielding 158 g (93% of the theoretical amount) of the title compound having a melting point of 199°-200° C.

reactant | 2,3-dihydro-5-methyl-2-oxo-1,3,4-oxadiazol-3-ylacetone | 156 g | CC1=NN(C(O1)=O)CC(C)=O | C6H8N2O3
reactant | hydrazine hydrate | 75 g | O.NN
reactant | oxalic acid dihydrate | 40 g | O.O.C(C(=O)O)(=O)O
solvent | isopropanol | 600 ml | C(C)(C)O | C3H8O
solvent | water | 15 ml | O | H2O
solvent | isopropanol | 160 ml | C(C)(C)O | C3H8O
product | 4-acetylamino-6-methyl-3-oxo-2,3,4,5-tetrahydro-1,2,4-triazine | C(C)(=O)NN1C(NN=C(C1)C)=O | C6H10N4O2
